US07429581B2
(iii) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid tert-butyl ester
To a solution of 350 mg 5-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-2H-pyrazole-3-carboxylic acid tert-butyl ester in 5 ml of DMF and 46 mg of sodium hydride (60% in mineral oil) were added at RT. After stirring for 20 min at room temperature 290 mg of 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added. The reaction was stirred at room temperature for 3 h. Then 10 ml of water were added and the mixture was filtered through a chem elut® cartridge by elution with DCM. After concentration under reduced pressure the crude was subjected to the next reaction without further purification. Yield: 400 mg.

reactant | 5-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-2H-pyrazole-3-carboxylic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(=O)C=1NN=C(C1)COCCOCCOC | C14H24N2O5
reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 290 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | water | 10 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=NN(C(=C1)COCCOCCOC)CC(NC1=NC=C(C=C1)Cl)=O | C21H29ClN4O6
